US05324726
(R)-1,3-Dihydro-1-methyl-3-(p-nitrophenyloxycarbonyl)amino-5-phenyl-2H-1,4-benzodiazepin-2-one (1.92 g, 4.47 mmol) was dissolved in THF (25 ml) and treated with a solution of (3-aminophenyl)acetic acid methyl ester (670 mg, 4.06 mmol) in THF (5 ml) followed by triethylamine (615 mg, 6.09 mmol). The mixture was stirred at ambient temperature for 4 days. The solvent was removed in vacuo and the residue was treated with water (20 ml) and extracted with ethyl acetate. The combined ethyl acetate layers were washed with 1M NaOH, then with 10% citric acid, dried over sodium sulfate, filtered and evaporated to dryness in vacuo. The residue was chromatographed on silica gel eluted with 1:1 hexane:ethyl acetate. The product fractions were combined and evaporated to dryness in vacuo and the residue crystallized from ethyl acetate to give (R)-3-((((2,3-Dihydro-1-methyl-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)amino)carbonyl)amino)phenyl acetic acid methyl ester. This ester (885mg, 1.94mmol) was dissolved in THF (5 ml) and treated with a solution of lithium hydroxide (815 mg, 19.4 mmol) in water (10 ml). The mixture was stirred at ambient temperature for 3 hours, diluted with water (100 ml), acidified with 1N HCl, and extracted with ethyl acetate. The ethyl acetate layers were washed with brine, dried over sodium sulfate, filterate, and evaporated to dryness in vacuo. The residue was chromatographed on silica gel eluted with chloroform followed by 9:1 chloroform:methanol. The product fractions were combined and evaporated to dryness in vacuo. The residue was crystallized from ethyl acetate to provide the title compound: (mp 167°-170° C.).

reactant | (R)-1,3-Dihydro-1-methyl-3-(p-nitrophenyloxycarbonyl)amino-5-phenyl-2H-1,4-benzodiazepin-2-one | 4.47 mmol, 1.92 g | CN1C([C@@H](N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)OC2=CC=C(C=C2)[N+](=O)[O-])=O | C23H18N4O5
reactant | (3-aminophenyl)acetic acid methyl ester | 4.06 mmol, 670 mg | COC(CC1=CC(=CC=C1)N)=O | C9H11NO2
reactant | triethylamine | 6.09 mmol, 615 mg | C(C)N(CC)CC | C6H15N
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (R)-3-((((2,3-Dihydro-1-methyl-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)amino)carbonyl)amino)phenyl acetic acid methyl ester | COC(CC1=CC(=CC=C1)NC(=O)N[C@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C)=O)=O | C26H24N4O4
